US04981509
A mixture of methyl 4-(methylthio)-2-nitrobenzoate (11.3 g. 49.7 mmol) and 5% platinum sulfide on carbon catalyst (0.7 g) in methyl acetate (40 mL) was hydrogenated at 750 Psi and 75° C. until hydrogen uptake ceased. The mixture was filtered through Celite®, and the filtrate solvent was rotary evaporated, leaving methyl 2-amino-4-(methylthio)benzoate as a slightly tan crystalline solid (8.7 g) melting at 57°-59° C.

reactant | methyl 4-(methylthio)-2-nitrobenzoate | 49.7 mmol, 11.3 g | CSC1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-] | C9H9NO4S
reactant | Psi | OCC1(O)[C@H](O)[C@H](O)[C@H](O)CO1 | C6H12O6
reactant | hydrogen | [H][H] | H2
solvent | methyl acetate | 40 mL | C(C)(=O)OC | C3H6O2
catalyst | platinum sulfide | [Pt]=S
product | methyl 2-amino-4-(methylthio)benzoate | NC1=C(C(=O)OC)C=CC(=C1)SC | C9H11NO2S
